US08895745B2
Step e) 3-Iodo-7-((E)-2-nitro-vinyl)-imidazo[1,2-a]pyridine
To a solution of 1-(3-Iodo-imidazo[1,2-a]pyridin-7-yl)-2-nitro-ethanol (116 mg, 0.35 mmol) in CH2Cl2 (2 ml) at 0° C. was added triethylamine (121 μl, 0.87 mmol) and methanesulfonyl chloride (38 μl, 0.49 mmol). The reaction mixture was allowed to warm to room temperature and stirred at room temperature for 1 h. The mixture was partitioned between CH2Cl2 and H2O, the organic layer was separated, dried (MgSO4), filtered and the solvent removed in vacuo. The residue was purified by silica column chromatography (0-50% MeOH in Et2O) to afford the product (57 mg). MS: [M+H]+=316.

reactant | 1-(3-Iodo-imidazo[1,2-a]pyridin-7-yl)-2-nitro-ethanol | 0.35 mmol, 116 mg | IC1=CN=C2N1C=CC(=C2)C(C[N+](=O)[O-])O | C9H8IN3O3
reactant | triethylamine | 0.87 mmol, 121 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.49 mmol, 38 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 3-Iodo-7-((E)-2-nitro-vinyl)-imidazo[1,2-a]pyridine | 57 mg | IC1=CN=C2N1C=CC(=C2)\C=C\[N+](=O)[O-] | C9H6IN3O2
